US07119207B2
5-[(6-Ethyl-2-phenyl-piperidin-3-ylamino)-methyl]-6-methoxy-3-methyl-1,1a,3,7b-tetrahydro-3-aza-cyclopropa[a]naphthalen-2-one
By a procedure similar to the previous examples 9 and 9A: prepared through the reaction of 6-Ethyl-2-phenyl-piperidin-3-ylamine [or (2S,3S,6S)-6-Ethyl-2-phenyl-piperidin-3-ylamine or (2R,3R,6R)-6-Ethyl-2-phenyl-piperidin-3-ylamine] with 6-Methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde [or (1S,1aR)-6-Methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde or (1R,1aS)-6-Methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde]. Melting Point: 231–234° C. (dec); 1H-NMR (dihydrochloride, 400 MHz, CD3OD): δ 0.48 (app. q, J=5.0 Hz, 1H), 1.02 (t, J=7.5 Hz, 3H), 1.64 (ddd, J=4.2, 9.1, 9.1 Hz, 1H), 1.70–1.85 (comp, 3H), 2.21 (ddd, J=5.0, 7.5, 9.5 Hz, 1H), 2.35–2.50 (comp, 3H), 2.61 (ddd, J=8.3, 8.3, 5.5 Hz, 1H), 3.28 (s, 3H), 3.61 (m, 1H), 3.71 (s, 3H), 4.00 (m, 1H), 4.14 (ab q, J=13.3, 6.2 Hz, 2H), 5.12 (d, J=4.97 Hz, 1H), 7.09 (d, J=12.9 Hz, 2H), 7.59–7.60 (m, 3H), 7.80–7.82 (m, 2H).

reactant | 6-Ethyl-2-phenyl-piperidin-3-ylamine | C(C)C1CCC(C(N1)C1=CC=CC=C1)N | C13H20N2
reactant | (2S,3S,6S)-6-Ethyl-2-phenyl-piperidin-3-ylamine | C(C)[C@H]1CC[C@@H]([C@@H](N1)C1=CC=CC=C1)N | C13H20N2
reactant | (2R,3R,6R)-6-Ethyl-2-phenyl-piperidin-3-ylamine | C(C)[C@@H]1CC[C@H]([C@H](N1)C1=CC=CC=C1)N | C13H20N2
reactant | 6-Methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde | COC1=C(C=C2N(C(C3C(C2=C1)C3)=O)C)C=O | C13H13NO3
product | 5-[(6-Ethyl-2-phenyl-piperidin-3-ylamino)-methyl]-6-methoxy-3-methyl-1,1a,3,7b-tetrahydro-3-aza-cyclopropa[a]naphthalen-2-one | C(C)C1CCC(C(N1)C1=CC=CC=C1)NCC=1C=C2N(C(C3C(C2=CC1OC)C3)=O)C | C26H33N3O2
